US04264510
A mixture of 11.4 g of 2,3,5,6-tetramethylene-7-oxabicyclo[2.2.1]heptane, 2 g of anhydrous zinc chloride, 30 ml of methyl vinyl ketone and 75 ml of chloroform, containing 10 mg of hydroquinone, was stirred at room temperature for 20 hours under nitrogen. The mixture was concentrated under reduced pressure (ca 15 mmHg, room temperature) and rapidly eluted with methylene chloride/ethyl acetate (2:1) on a short column filled with 18 g of SiO2 (70-230 mesh). The first fractions contained methyl (1,2,3,4,5,6,7,8-octahydro-2,3-dimethylene-1,4-epoxynaphthalene-6-yl) ketone and unreacted methyl vinyl ketone. After the addition of 5 mg of hydroquinone, the mixture was concentrated to dryness at room temperature under reduced pressure (1 mmHg) until the methyl vinyl ketone had been completely removed. There were obtained 14.5 g (86%) of methyl (1,2,3,4,5,6,7,8-octahydro-2,3-dimethylene-1,4-epoxynaphthalen-6-yl) ketone in sufficient purity for the next step.

reactant | 2,3,5,6-tetramethylene-7-oxabicyclo[2.2.1]heptane | 11.4 g | C=C1C2C(C(C(C1=C)O2)=C)=C | C10H10O
reactant | methyl vinyl ketone | 30 ml | C(=C)C(=O)C | C4H6O
reactant | hydroquinone | 10 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
catalyst | zinc chloride | 2 g | [Cl-].[Zn+2].[Cl-]
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl (1,2,3,4,5,6,7,8-octahydro-2,3-dimethylene-1,4-epoxynaphthalen-6-yl) ketone | 14.5 g, 86% | C=C1C2C=3CCC(CC3C(C1=C)O2)C(=O)C | C14H16O2
